US04803200
4-(Dimethylamino)-β-[(2-hydroxyethyl)amino]-α-phenylbenzeneethanol.
Sodium borohydride (0.22 g, 0.0057 mole) was added in several portions to a stirred suspension of 2-(4-dimethylaminophenyl)-2-(hydroxyethylamino)acetophenone (0.85 g, 0.00285 mole) in 50 ml of absolute ethanol and the mixture stirred at ambient temperature for 0.5 hr. The mixture was then heated to reflux temperature for 0.5 hr, cooled to ambient temperature, and 6N HCl solution added until the mixture was neutral. The mixture was concentrated to give a yellow solid. This solid was dissolved in a minimum volume of methanol and acidified with 6N hydrochloric acid to give a clear yellow solution. This solution was brought to pH 8 with 6N sodium hydroxide solution, cooled by the addition of ice, and the white solid collected to obtain 0.54 g (63%) of the desired product. Recrystallization from acetoneisopropyl ether gave 0.25 g of title compound, m.p. 147°-148° C.

reactant | Sodium borohydride | 0.0057 mole, 0.22 g | [BH4-].[Na+]
reactant | 2-(4-dimethylaminophenyl)-2-(hydroxyethylamino)acetophenone | 0.00285 mole, 0.85 g | CN(C1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)NCCO)C | C18H22N2O2
reactant | HCl | 6N | Cl | ClH
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 4-(Dimethylamino)-β-[(2-hydroxyethyl)amino]-α-phenylbenzeneethanol | 0.54 g, 63% | CN(C1=CC=C(C=C1)C(C(O)C1=CC=CC=C1)NCCO)C | C18H24N2O2
